US03944560
3-Hydroxy-3-aminomethyl-3,4-dihydro-2H-1,5-benzodioxepin (2.30 g., 11.8 millimole) and styrene oxide (1.42 g., 11.8 millimole) are dissolved in methanol (12 ml.) and the solution then is stirred at ambient temperature for 48 hours. Evaporation of the reaction mixture gives 3.64 g. of a syrup which is chromatographed on a dry silica gel (150 g.) column which had been deactivated with about 25 ml. of water and packed in a 1 3/4 inches glass column. The first three fractions obtained upon elution with a 1:1 mixture of ether and chloroform are combined and dissolved in dry ether (50 ml.) and treated with a slight excess of ethanolic hydrogen chloride. The solid material is separated and dissolved in boiling ethanol (16 ml.) clarified with charcoal and filtered. The solvent was removed from the filtrate by evaporation yielding 3-hydroxy-3-[di-(2-hydroxy-2-phenylethyl)aminomethyl)-3,4-dihydro-2H-1,5-benzodioxepin hydrochloride, m.p. 221°-222° C. (dec.).

reactant | 3-Hydroxy-3-aminomethyl-3,4-dihydro-2H-1,5-benzodioxepin | 11.8 millimole, 2.30 g | OC1(COC2=C(OC1)C=CC=C2)CN | C10H13NO3
reactant | styrene oxide | 11.8 millimole, 1.42 g | C1C(C2=CC=CC=C2)O1 | C8H8O
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 12 ml | CO | CH4O
solvent | ether | 50 ml | CCOCC | C4H10O
product | 3-hydroxy-3-[di-(2-hydroxy-2-phenylethyl)aminomethyl)-3,4-dihydro-2H-1,5-benzodioxepin hydrochloride | Cl.OC1(COC2=C(OC1)C=CC=C2)CN(CC(O)C2=CC=CC=C2)CC(C2=CC=CC=C2)O | InChI=1S/C26H29NO5.ClH/c28-22(20-9-3-1-4-10-20)15-27(16-23(29)21-11-5-2-6-12-21)17-26(30)18-31-24-13-7-8-14-25(24)32-19-26;/h1-14,22-23,28-30H,15-19H2;1H
